US07968573B2
To a mixture of 0.26 g of N,N′-dimethylhydrazine dihydrochloride, 2 ml of water, 0.5 g of potassium carbonate and 10 ml of N,N-dimethylformamide was added 0.20 g of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-8-methyl-6-nitro-4H-3,1-benzoxazine-4-one. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and extracted with ethyl acetate three times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 3-bromo-1-(3-chloro-2-pyridinyl)-N-[2-(N,N′-dimethylhydrazinocarbonyl)-6-methyl-4-nitrophenyl]-1H-pyrazole-5-carboxamide of the formula:

reactant | N,N′-dimethylhydrazine dihydrochloride | 0.26 g | Cl.Cl.CNNC
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-8-methyl-6-nitro-4H-3,1-benzoxazine-4-one | 0.20 g | BrC1=NN(C(=C1)C1=NC2=C(C(O1)=O)C=C(C=C2C)[N+](=O)[O-])C2=NC=CC=C2Cl | C17H9BrClN5O4
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 2 ml | O | H2O
product | 3-bromo-1-(3-chloro-2-pyridinyl)-N-[2-(N,N′-dimethylhydrazinocarbonyl)-6-methyl-4-nitrophenyl]-1H-pyrazole-5-carboxamide | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C)[N+](=O)[O-])C(=O)N(NC)C)C1=NC=CC=C1Cl | C19H17BrClN7O4
